US08536097B2
Step 2: Synthesis of 3-fluoro-4-(pentafluoroethyl)benzoic acid
A solution of 16.0 g (99% by weight; 54.1 mmol) of 3-fluoro-4-(pentafluoroethyl)-bromobenzene in 110 ml of THF was cooled to −10° C. Added dropwise over the course of 30 minutes were 36.8 ml of a 2M (73.6 mmol) solution of isopropyl-magnesium chloride. The mixture was stirred at −10° C. for 2.5 hours and then cautiously poured onto an excess of dry ice. For working up, 130 ml of water were added, and the mixture was subsequently extracted once with 10 ml of diethyl ether. The aqueous phase was acidified with half-concentrated hydrochloric acid and then extracted with four times 150 ml of diethyl ether. The combined organic phases were dried and the filtrate was freed from the solvent. The residue was recrystallized from CHCl3, giving 10.7 g of product with a purity of 98% by weight.

reactant | 3-fluoro-4-(pentafluoroethyl)-bromobenzene | 54.1 mmol, 16.0 g | FC=1C=C(C=CC1C(C(F)(F)F)(F)F)Br | C8H3BrF6
reactant | isopropyl-magnesium chloride | C(C)(C)[Mg]Cl
reactant | dry ice | C(=O)=O | CO2
reactant | water | 130 ml | O | H2O
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | 3-fluoro-4-(pentafluoroethyl)benzoic acid | 10.7 g | FC=1C=C(C(=O)O)C=CC1C(C(F)(F)F)(F)F | C9H4F6O2
